US08222245B2
1,1-Dimethylethyl 7-{5-[2-(trifluoromethyl)-4-biphenylyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
2-(Trifluoromethyl)-4-biphenylcarboxylic acid (Preparation 40) (284 mg, 1.07 mmol), HOBT (159 mg, 1.18 mmol) and EDC (225 mg, 1.18 mmol) were stirred in DMF (10 ml) under argon for 20 minutes. 1,1-Dimethylethyl 7-[(hydroxyamino)(imino)methyl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (Preparation 41) (326 mg, 1.07 mmol) was added and the mixture stirred at room temperature for 2.5 h before it was heated to 80° C. for 16 h. The reaction mixture was partitioned between EtOAc (30 ml) and water (30 ml) and the organic layer washed with aqueous sodium bicarbonate and water before it was dried (phase separator) and evaporated. The residue was triturated with methanol to give the title compound as a white solid (370 mg, 0.69 mmol). The filtrate was purified by Biotage Horizon, reverse phase cartridge, eluting with 5-100% acetonitrile in water to give further title compound (70 mg, 0.13 mmol). δH (d6DMSO, 400 MHz): 8.52 (1H, s), 8.50 (1H, d), 7.93 (1H, s), 7.90 (1H, dd), 7.74 (1H, d) 7.56-7.48 (3H, m), 7.41-7.38 (3H, m), 3.55-3.47 (4H, m), 3.02-2.93 (4H, m), 1.41 (9H, s).

reactant | 2-(Trifluoromethyl)-4-biphenylcarboxylic acid | 1.07 mmol, 284 mg | FC(C1=C(C=CC(=C1)C(=O)O)C1=CC=CC=C1)(F)F | C14H9F3O2
reactant | HOBT | 1.18 mmol, 159 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.18 mmol, 225 mg
reactant | 1,1-Dimethylethyl 7-[(hydroxyamino)(imino)methyl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 1.07 mmol, 326 mg | ONC(C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)=N | C16H23N3O3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1,1-Dimethylethyl 7-{5-[2-(trifluoromethyl)-4-biphenylyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 0.69 mmol, 370 mg | FC(C1=C(C=CC(=C1)C1=NC(=NO1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)C1=CC=CC=C1)(F)F | C30H28F3N3O3
